US09255094B2
Preparation of 2,8-dimethyl-5-((1-(pyridin-4-yl)cyclopropyl)methyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (Compound No. 1-50)
2,8-Dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (183 mg, 0.917 mmol), tetra n-butyl ammonium bromide (14 mg, 0.045 mmol), and (1-(pyridin-4-yl)cyclopropyl)methyl methanesulfonate (250 mg, 1.10 mmol) were taken into 50% NaOH (6 mL). The reaction mixture was stirred overnight at 100° C. Reaction was monitored by TLC and LCMS. After completion of the reaction, reaction mixture was extracted with EtOAc and water. The organic layer was separated, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The crude compound was purified by column chromatography to yield 37 mg of product. 1H NMR (CDCl3, Freebase) d (ppm): 8.45 (d, 2H), 7.1-7.0 (m, 3H), 6.9 (d, 2H), 4.28 (s, 2H), 3.63 (s, 2H), 2.7 (t, 2H), 2.5-2.6 (m, 5H), 2.42 (s, 3H), 1.0-0.85 (m, 4H).

reactant | 2,8-Dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.917 mmol, 183 mg | CN1CC2=C(NC=3C=CC(=CC23)C)CC1 | C13H16N2
reactant | (1-(pyridin-4-yl)cyclopropyl)methyl methanesulfonate | 1.10 mmol, 250 mg | CS(=O)(=O)OCC1(CC1)C1=CC=NC=C1 | C10H13NO3S
reactant | NaOH | 6 mL | [OH-].[Na+]
catalyst | tetra n-butyl ammonium bromide | 0.045 mmol, 14 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2,8-dimethyl-5-((1-(pyridin-4-yl)cyclopropyl)methyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 37 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC2(CC2)C2=CC=NC=C2)CC1 | C22H25N3
